US04367238
A solution of potassium hydroxide (1.3 g) in methanol (30 ml) was added to a solution of 7-(2-methoxyphenoxy)-2,3-dihydrobenzofuran-2-one (1.3 g) in methanol (30 ml), and allowed to stand at room temperature for 3 hrs. Methanol was distilled off from the reaction mixture, and the residue was dissolved in water. The aqueous solution was acidified with conc. hydrochloric acid, and the precipitating crystals were collected by filtration, washed with water, dried and then recrystallized from a mixture of ethyl acetate and n-hexane to give 2-[2-hydroxy-3-(2-methoxyphenoxy)phenyl]acetic acid (1.0 g). mp 125°-126° C.

reactant | potassium hydroxide | 1.3 g | [OH-].[K+]
reactant | 7-(2-methoxyphenoxy)-2,3-dihydrobenzofuran-2-one | 1.3 g | COC1=C(OC2=CC=CC=3CC(OC32)=O)C=CC=C1 | C15H12O4
solvent | methanol | 30 ml | CO | CH4O
solvent | methanol | 30 ml | CO | CH4O
product | 2-[2-hydroxy-3-(2-methoxyphenoxy)phenyl]acetic acid | 1.0 g | OC1=C(C=CC=C1OC1=C(C=CC=C1)OC)CC(=O)O | C15H14O5
